US04680301
A solution of 16.2 g of 2-tert-butyl-5-chloro-6-nitrobenzothiazole, described in Example 5, in 150 ml hexamethyl phosphoric triamide is heated at 200° for 10 hours and poured into ice-water. The liquid separated is extracted with ether, dried over anhydrous sodium sulphate and the ether is evaporated under reduced pressure to give a red oil which is purified by silica gel column chromatography. Elution with benzene hexane (1:1) gives 2-tert-butyl-5-[N,N-dimethyl]amino-6-nitrobenzothiazole, melting at 65°-68°.

reactant | 2-tert-butyl-5-chloro-6-nitrobenzothiazole | 16.2 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])Cl | C11H11ClN2O2S
reactant | hexamethyl phosphoric triamide | 150 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-tert-butyl-5-[N,N-dimethyl]amino-6-nitrobenzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])N(C)C | C13H17N3O2S
